US07872014B2
5-(Chloromethyl)-1-fluoro-2-(methyloxy)-3-[(phenylmethyl)oxy]benzene (2.88 g, 10.26 mmol.) was taken into DMF (15 mL) followed by addition of potassium cyanide (1.0 g, 15.4 mmol.) and the resulting mixture was allowed to stir at room temperature over 12 hours. The mixture was then partitioned with ethyl ether and water and the organic phase washed with water (3×) then saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. Filtration and concentration gave {3-fluoro-4-(methyloxy)-5-[(phenylmethyl)oxy]phenyl}acetonitrile (2.69 g, 97% yield) as a clear oil. GCMS for C16H14O2FN: 271 (M+).

reactant | 5-(Chloromethyl)-1-fluoro-2-(methyloxy)-3-[(phenylmethyl)oxy]benzene | 10.26 mmol, 2.88 g | ClCC=1C=C(C(=C(C1)F)OC)OCC1=CC=CC=C1 | C15H14ClFO2
reactant | potassium cyanide | 15.4 mmol, 1.0 g | [C-]#N.[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | {3-fluoro-4-(methyloxy)-5-[(phenylmethyl)oxy]phenyl}acetonitrile | 2.69 g, 97% yield | FC=1C=C(C=C(C1OC)OCC1=CC=CC=C1)CC#N | C16H14FNO2
